US07034029B2
Preparation of 4-[4-(4,5-Dihydro-1H-imidazol-2-yl)-piperazin-1-yl]-1-(phenylsulfonyl)-1H-indole
A solution of 1-(phenylsulfonyl)-4-piperzin-1-yl-1H-indole (71 mg, 0.18 mmol) in dioxane is treated with 2-methylthio-2-imidazoline hydroiodide (52.7 mg, 0.22 mmol) and N,N-diisopropylethylamine (62 μl, 0.36 mmol), heated at 50° C. for 16 hr., cooled and concentrated in vacuo to give a residue. The residue is purified by HPLC to give the title product, 15 mg, identified by HPLC and mass spectral analyses (2.57 min; 410 M+H) using the LCMS conditions described in Table I.

reactant | 1-(phenylsulfonyl)-4-piperzin-1-yl-1H-indole | 0.18 mmol, 71 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | C18H19N3O2S
reactant | 2-methylthio-2-imidazoline hydroiodide | 0.22 mmol, 52.7 mg | I.CSC=1NCCN1
reactant | N,N-diisopropylethylamine | 0.36 mmol, 62 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[4-(4,5-Dihydro-1H-imidazol-2-yl)-piperazin-1-yl]-1-(phenylsulfonyl)-1H-indole | N1C(=NCC1)N1CCN(CC1)C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C21H23N5O2S
